datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:13],69.4126
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][H:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:17][O:38][H:39],-5.819944
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17],150.791
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([S:20][H:26])[C:21](=[S:22])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:23])([H:24])[H:25])([S:20][H:26])[C:21](=[S:22])[H:27],80.3328
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([C:12](=[C:13]([H:22])[H:23])[H:21])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:17])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])[C:12](=[C:13]([H:22])[H:23])[H:21])[H:16])([H:14])[H:15],-0.4184
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28](=[C:29]([H:35])[H:36])[H:34])[H:33])[H:32])([H:30])[H:31]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:27]([C:26](=[C:25]([H:30])[H:31])[H:32])([C:28](=[C:29]([H:35])[H:36])[H:34])[H:33],104.182
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[H:11])([H:5])[H:6].[O:12][O:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:11])([H:5])[H:6].[H:10][O:12][O:13],6.899416
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:12])([H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18],39.3296
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19],137.026
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:31])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:12],72.0903
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:13])[O:3]1.[O:4][H:14],74.0568
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])([H:19])[C:8]1([H:20])[H:21])[H:9],51.6306
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[S:18]=[C:19]([S:20][H:22])[H:21]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:21])([H:9])([H:10])[H:11].[S:18]=[C:19][S:20][H:22],127.068
